US08058441B2
1-Acetyl-6-(ethoxyethoxyethylcarbonyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Michael addition of 2-ethoxyethanol (19 mg) and 1-acetyl-6-acryloylamino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (8 mg) in THF (1 mL) was performed according to the method described in example 65.

reactant | 2-ethoxyethanol | 19 mg | C(C)OCCO | C4H10O2
reactant | 1-acetyl-6-acryloylamino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 8 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C=C)=O)(C)C1=CC=CC=C1)(C)C | C23H26N2O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-Acetyl-6-(ethoxyethoxyethylcarbonyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(=O)CCOCCOCC)(C)C1=CC=CC=C1)(C)C | C27H36N2O4
